US09145411B2
Step 3: ((Acetyl(3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-carbamoyl)-oxy)methyl acetate
To a 100 mL round bottom flask, (((3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamoyl)oxy)methyl acetate (1.0 g, 0.0022 mol), triethylamine (0.6 mL, 0.0044 mol) N,N-dimethylpyridin-4-amine (0.0054 g, 0.000044 mol) and DCM (25 mL) were added. To the same flask was added acetic anhydride (2.67 g, 0.0264 mol). The reaction was continued at room temperature for 18 hour. Additional acetic anhydride (1.63 g, 0.0161 mol) was then added to the reaction mixture. The reaction was further continued at room temperature for 24 hours. The reaction mixture was diluted with DCM. The organic layer was washed with water, brine, dried over anhydrous sodium sulphate and evaporated under reduced pressure to provide the title compound (0.97 g, 83%). 1H NMR (400 MHz, DMSO-d6): δ 9.14 (d, J=2.0 Hz, 1H), 8.32 (d, J=2.0 Hz, 1H), 7.95 (d, J=8.0 Hz, 1H), 7.87 (s, 1H), 7.61 (t, J=7.6 Hz, 1H), 7.53 (dd, J′=7.6 Hz, J″=0.8 Hz, 1H), 5.66 (s, 2H), 4.65-3.97 (br s, 4H), 3.80 (t, J=4.8 Hz, 4H), 2.55 (s, 3H), 2.03 (s, 3H). LC-MS (ESI): Calculated mass: 499.13; Observed mass [M+H]+: 499.8 (RT: 1.52 min).

reactant | (((3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamoyl)oxy)methyl acetate | 0.0022 mol, 1.0 g | C(C)(=O)OCOC(NC1=CC(=CC=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl)=O | C21H20ClN5O5
reactant | triethylamine | 0.0044 mol, 0.6 mL, 0.0054 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.0264 mol, 2.67 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.0161 mol, 1.63 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | ((Acetyl(3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-carbamoyl)-oxy)methyl acetate | 0.97 g, 83% | C(C)(=O)OCOC(N(C1=CC(=CC=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl)C(C)=O)=O | C23H22ClN5O6
